US07759344B2
1-(2-Hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2,3-dihydro-1H-pyrazole-4-carboxamide.
A flask was charged with 1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (0.500 g, 1.72 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenamine (0.377 g, 1.72 mmol), K2CO3 (0.476 g, 3.44 mmol), HATU (0.982 mg, 2.58 mmol) and CH2Cl2 (10 mL) and the mixture stirred at rt for 14 h. The mixture was diluted with CHCl3 (100 mL), washed with water and sat. NaHCO3. The organic layer was dried over Na2SO4, filtered and evaporated. The title compound was obtained as a white solid (873 mg). MS (ESI pos. ion) m/z: 492 (MH+). Calc'd exact mass for C27H34BN3O5: 491.

reactant | 1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 1.72 mmol, 0.500 g | OC(CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1)(C)C | C15H18N2O4
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzenamine | 1.72 mmol, 0.377 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N)C | C12H18BNO2
reactant | K2CO3 | 3.44 mmol, 0.476 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HATU | 2.58 mmol, 0.982 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2,3-dihydro-1H-pyrazole-4-carboxamide | OC(CN1N(C(C(=C1C)C(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C1=CC=CC=C1)(C)C | C27H34BN3O5
